US05663334
a) 2-Aminopyrimidine-4-carboxaldehyde (cyclopropylmethyl)imine
2-Aminopyrimidine-4-carboxaldehyde and 2-cyclopropylmethyl amine were reacted by the procedure of example 1(c) to afford the title compound as a yellow oil.

reactant | 2-Aminopyrimidine-4-carboxaldehyde | NC1=NC=CC(=N1)C=O | C5H5N3O
reactant | 2-cyclopropylmethyl amine | C1C(C1)CN | C4H9N
product | 2-Aminopyrimidine-4-carboxaldehyde (cyclopropylmethyl)imine | C1(CC1)CN=CC1=NC(=NC=C1)N | C9H12N4
